US09102654B2
Alternate Synthetic Route to: 3-(3-chloro-1H-pyrazol-1-yl)pyridine (Scheme 2)
3-Chloro-1-(pyridin-3-yl)-1H-pyrazole-5-carboxylic acid hydrochloride (1.00 g, 3.65 mmol) was stirred in N,N-dimethylformamide (10 mL). Copper(II) oxide (58.0 mg, 0.730 mmol) was added and the reaction was heated at 120° C. for 16 hours, at which point the reaction was ˜20% complete. Additional copper(II) oxide (112 mg, 1.46 mmol) was added and the reaction was stirred for 5 hours, at which point the reaction was complete by thin layer chromatography (TLC) [Eluent: ethyl acetate]. The mixture was diluted with ammonium hydroxide (NH4OH) and water and extracted with ethyl acetate. The organic layer was washed with 15% lithium chloride and concentrated to provide an orange solid. The residue was purified by flash column chromatography using ethyl acetate as eluent and the pure fractions were concentrated to afford the desired product as a white solid (481 mg, 69.7%). The spectral characterization was in agreement with the product prepared previously.

reactant | 3-Chloro-1-(pyridin-3-yl)-1H-pyrazole-5-carboxylic acid hydrochloride | 3.65 mmol, 1.00 g | Cl.ClC1=NN(C(=C1)C(=O)O)C=1C=NC=CC1
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
catalyst | Copper(II) oxide | 0.730 mmol, 58.0 mg | [Cu]=O
catalyst | copper(II) oxide | 1.46 mmol, 112 mg | [Cu]=O
product | 3-(3-chloro-1H-pyrazol-1-yl)pyridine | 481 mg, 69.7% | ClC1=NN(C=C1)C=1C=NC=CC1 | C8H6ClN3
